US07507740B2
Production of N-benzyl-3-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzamide
A mixture of 3-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoic acid (153 mg), benzylamine (96 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (173 mg), 1-hydroxybenzotriazole (138 mg) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure, water was added and the mixture was extracted with ethyl acetate containing tetrahydrofuran. The extract washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→50:50). Ethyl acetate and diethyl ether were added and the precipitate was collected by filtration to give the title compound (128 mg) as a colorless powder.

reactant | 3-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoic acid | 153 mg | N1=CN=C(C2=C1C=CN2)NC=2C=C(C(=O)O)C=CC2 | C13H10N4O2
reactant | benzylamine | 96 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 173 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 138 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-benzyl-3-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzamide | 128 mg | C(C1=CC=CC=C1)NC(C1=CC(=CC=C1)NC=1C2=C(N=CN1)C=CN2)=O | C20H17N5O
